US04714700
1st step: Preparation of 2,4-dimethoxy chlorobenzene
Into a triple-necked flask of 500 cm3, provided with a magnetic stirring system, with a thermometer, with a calcium chloride trap and a dropping funnel, and cooled to 10° C., were introduced successively 97.5 (0.70 mole) of 1,3-dimethoxy benzene and then drop by drop 96.5 g (0.70 mole) of sulfuryl chloride. Once the addition was ended, the solution was brought back to ambient temperature and allowed to stand 2 h and then distilled.

reactant | 1,3-dimethoxy benzene | COC1=CC(=CC=C1)OC | C8H10O2
reactant | sulfuryl chloride | 0.70 mole, 96.5 g | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 2,4-dimethoxy chlorobenzene | COC1=C(C=CC(=C1)OC)Cl | C8H9ClO2
